** Name: SimpleTwoStageOpAmp_SimpleOpAmp12_10

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp12_10 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=11e-6
mDiodeTransistorPmos2 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=3e-6 W=148e-6
mNormalTransistorNmos3 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=12e-6
mNormalTransistorNmos4 out ibias sourceNmos sourceNmos nmos4 L=3e-6 W=326e-6
mNormalTransistorNmos5 outVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=553e-6
mNormalTransistorNmos6 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=12e-6
mNormalTransistorNmos7 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=3e-6 W=24e-6
mNormalTransistorPmos8 outFirstStage outVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=3e-6 W=23e-6
mNormalTransistorPmos9 out outVoltageBiasXXpXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=3e-6 W=196e-6
mNormalTransistorPmos10 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=9e-6 W=103e-6
mNormalTransistorPmos11 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=9e-6 W=103e-6
mNormalTransistorPmos12 FirstStageYinnerSourceLoad1 outVoltageBiasXXpXX1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=3e-6 W=23e-6
mNormalTransistorPmos13 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=453e-6
Capacitor1 outFirstStage out 2.30001e-12
Capacitor2 out sourceNmos 10e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp12_10

** Expected Performance Values: 
** Gain: 103 dB
** Power consumption: 4.12101 mW
** Area: 6363 (mu_m)^2
** Transit frequency: 5.87601 MHz
** Transit frequency with error factor: 5.87367 MHz
** Slew rate: 9.30037 V/mu_s
** Phase margin: 69.9009°
** CMRR: 102 dB
** negPSRR: 102 dB
** posPSRR: 93 dB
** VoutMax: 4.31001 V
** VoutMin: 0.180001 V
** VcmMax: 5.18001 V
** VcmMin: 0.840001 V


** Expected Currents: 
** NormalTransistorNmos: 500.901 muA
** NormalTransistorPmos: -10.7429 muA
** NormalTransistorPmos: -10.7439 muA
** NormalTransistorPmos: -10.7429 muA
** NormalTransistorPmos: -10.7439 muA
** NormalTransistorNmos: 21.4841 muA
** NormalTransistorNmos: 10.7421 muA
** NormalTransistorNmos: 10.7421 muA
** NormalTransistorNmos: 291.817 muA
** NormalTransistorPmos: -291.816 muA
** NormalTransistorPmos: -291.817 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -500.9 muA


** Expected Voltages: 
** ibias: 0.584001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 4.24601  V
** outVoltageBiasXXpXX1: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 4.20601  V
** innerTransistorStack1Load1: 4.52901  V
** innerTransistorStack2Load1: 4.52901  V
** sourceTransconductance: 1.84201  V
** innerTransconductance: 4.74801  V


.END