** Name: SimpleTwoStageOpAmp_SimpleOpAmp31_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp31_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=3e-6 W=7e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=33e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=522e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=15e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX0 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=10e-6 W=44e-6
mDiodeTransistorPmos6 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=6e-6 W=283e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=19e-6
mNormalTransistorNmos8 out inputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=522e-6
mNormalTransistorNmos9 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=23e-6
mNormalTransistorNmos10 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=133e-6
mNormalTransistorNmos11 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=23e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=3e-6 W=98e-6
mNormalTransistorNmos13 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=33e-6
mNormalTransistorPmos14 inputVoltageBiasXXnXX1 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=10e-6 W=600e-6
mNormalTransistorPmos15 out outFirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=536e-6
mNormalTransistorPmos16 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 pmos4 L=6e-6 W=328e-6
mNormalTransistorPmos17 FirstStageYout1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=6e-6 W=283e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 4.40001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp31_9

** Expected Performance Values: 
** Gain: 94 dB
** Power consumption: 14.9991 mW
** Area: 14848 (mu_m)^2
** Transit frequency: 20.6481 MHz
** Transit frequency with error factor: 20.6386 MHz
** Slew rate: 19.4606 V/mu_s
** Phase margin: 65.3172°
** CMRR: 107 dB
** negPSRR: 99 dB
** posPSRR: 94 dB
** VoutMax: 4.25 V
** VoutMin: 0.900001 V
** VcmMax: 4.40001 V
** VcmMin: 1.29001 V


** Expected Currents: 
** NormalTransistorNmos: 12.4301 muA
** NormalTransistorPmos: -168.739 muA
** NormalTransistorPmos: -43.8079 muA
** NormalTransistorPmos: -43.8079 muA
** DiodeTransistorPmos: -43.8079 muA
** NormalTransistorNmos: 87.6131 muA
** NormalTransistorNmos: 87.6121 muA
** NormalTransistorNmos: 43.8071 muA
** NormalTransistorNmos: 43.8071 muA
** NormalTransistorNmos: 2721.12 muA
** DiodeTransistorNmos: 2721.12 muA
** NormalTransistorPmos: -2721.11 muA
** DiodeTransistorNmos: 168.74 muA
** NormalTransistorNmos: 168.74 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -12.4309 muA


** Expected Voltages: 
** ibias: 1.18701  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.30401  V
** inputVoltageBiasXXpXX0: 4.03801  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outSourceVoltageBiasXXnXX1: 0.652001  V
** outSourceVoltageBiasXXnXX2: 0.558001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 4.20701  V
** innerStageBias: 0.604001  V
** out1: 3.43101  V
** sourceTransconductance: 1.94501  V
** inner: 0.652001  V


.END