** Name: SimpleTwoStageOpAmp_SimpleOpAmp32_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp32_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=6e-6 W=6e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=3e-6 W=408e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=14e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX0 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=3e-6 W=114e-6
mDiodeTransistorPmos5 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=5e-6 W=13e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=6e-6 W=104e-6
mNormalTransistorNmos7 out ibias sourceNmos sourceNmos nmos4 L=6e-6 W=563e-6
mNormalTransistorNmos8 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=28e-6
mNormalTransistorNmos9 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=28e-6
mNormalTransistorNmos10 FirstStageYsourceTransconductance outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=3e-6 W=14e-6
mNormalTransistorNmos11 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=408e-6
mNormalTransistorPmos12 out outFirstStage sourcePmos sourcePmos pmos4 L=3e-6 W=274e-6
mNormalTransistorPmos13 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 pmos4 L=3e-6 W=98e-6
mNormalTransistorPmos14 outInputVoltageBiasXXnXX1 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=3e-6 W=500e-6
mNormalTransistorPmos15 FirstStageYout1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=5e-6 W=13e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.5e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp32_7

** Expected Performance Values: 
** Gain: 89 dB
** Power consumption: 9.51001 mW
** Area: 9882 (mu_m)^2
** Transit frequency: 7.99401 MHz
** Transit frequency with error factor: 7.98993 MHz
** Slew rate: 7.53402 V/mu_s
** Phase margin: 65.3172°
** CMRR: 110 dB
** negPSRR: 98 dB
** posPSRR: 94 dB
** VoutMax: 4.25 V
** VoutMin: 0.340001 V
** VcmMax: 4.16001 V
** VcmMin: 1.48001 V


** Expected Currents: 
** NormalTransistorNmos: 173.351 muA
** NormalTransistorPmos: -764.618 muA
** NormalTransistorPmos: -13.3339 muA
** NormalTransistorPmos: -13.3339 muA
** DiodeTransistorPmos: -13.3339 muA
** NormalTransistorNmos: 26.6651 muA
** DiodeTransistorNmos: 26.6641 muA
** NormalTransistorNmos: 13.3331 muA
** NormalTransistorNmos: 13.3331 muA
** NormalTransistorNmos: 927.344 muA
** NormalTransistorPmos: -927.343 muA
** DiodeTransistorNmos: 764.619 muA
** NormalTransistorNmos: 764.619 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -173.35 muA


** Expected Voltages: 
** ibias: 0.747001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX0: 3.92901  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outInputVoltageBiasXXnXX1: 1.32801  V
** outSourceVoltageBiasXXnXX1: 0.664001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 3.90101  V
** out1: 3.18601  V
** sourceTransconductance: 1.94501  V
** inner: 0.664001  V


.END