** Name: SimpleTwoStageOpAmp_SimpleOpAmp33_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp33_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=7e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=8e-6 W=78e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=4e-6 W=309e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=8e-6 W=92e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=4e-6 W=8e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=557e-6
mNormalTransistorNmos7 out ibias sourceNmos sourceNmos nmos4 L=4e-6 W=445e-6
mNormalTransistorNmos8 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=7e-6 W=13e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=54e-6
mNormalTransistorNmos10 FirstStageYinnerStageBias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=10e-6
mNormalTransistorNmos11 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=7e-6 W=13e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance outVoltageBiasXXnXX1 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=8e-6 W=48e-6
mNormalTransistorPmos13 out outFirstStage sourcePmos sourcePmos pmos4 L=9e-6 W=557e-6
mNormalTransistorPmos14 outFirstStage inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=4e-6 W=36e-6
mNormalTransistorPmos15 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=8e-6 W=179e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack2Load1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=4e-6 W=8e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp33_7

** Expected Performance Values: 
** Gain: 86 dB
** Power consumption: 8.30801 mW
** Area: 14107 (mu_m)^2
** Transit frequency: 4.57401 MHz
** Transit frequency with error factor: 4.57145 MHz
** Slew rate: 6.07647 V/mu_s
** Phase margin: 72.1927°
** CMRR: 97 dB
** negPSRR: 96 dB
** posPSRR: 91 dB
** VoutMax: 4.25 V
** VoutMin: 0.260001 V
** VcmMax: 4.19001 V
** VcmMin: 1.45001 V


** Expected Currents: 
** NormalTransistorNmos: 77.2391 muA
** NormalTransistorNmos: 784.35 muA
** NormalTransistorPmos: -147.601 muA
** DiodeTransistorPmos: -7.02799 muA
** NormalTransistorPmos: -7.02799 muA
** NormalTransistorPmos: -7.02799 muA
** NormalTransistorNmos: 14.0551 muA
** NormalTransistorNmos: 14.0561 muA
** NormalTransistorNmos: 7.02701 muA
** NormalTransistorNmos: 7.02701 muA
** NormalTransistorNmos: 628.383 muA
** NormalTransistorPmos: -628.382 muA
** DiodeTransistorNmos: 147.602 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -77.2399 muA
** DiodeTransistorPmos: -784.349 muA


** Expected Voltages: 
** ibias: 0.664001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outVoltageBiasXXnXX1: 0.830001  V
** outVoltageBiasXXpXX0: 3.82601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.259001  V
** innerTransistorStack2Load1: 4.45801  V
** out1: 3.99101  V
** sourceTransconductance: 1.88301  V


.END