** Name: SimpleTwoStageOpAmp_SimpleOpAmp34_10

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp34_10 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=6e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=9e-6 W=256e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=9e-6 W=113e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=10e-6 W=12e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=81e-6
mDiodeTransistorPmos6 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=10e-6 W=123e-6
mNormalTransistorNmos7 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=16e-6
mNormalTransistorNmos8 out ibias sourceNmos sourceNmos nmos4 L=3e-6 W=500e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=5e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=495e-6
mNormalTransistorNmos11 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=16e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=9e-6 W=113e-6
mNormalTransistorNmos13 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=9e-6 W=256e-6
mNormalTransistorPmos14 outFirstStage outVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=1e-6 W=12e-6
mNormalTransistorPmos15 out outVoltageBiasXXpXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=326e-6
mNormalTransistorPmos16 outInputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=10e-6 W=196e-6
mNormalTransistorPmos17 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=10e-6 W=123e-6
mNormalTransistorPmos18 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=336e-6
Capacitor1 outFirstStage out 7.20001e-12
Capacitor2 out sourceNmos 10e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp34_10

** Expected Performance Values: 
** Gain: 102 dB
** Power consumption: 9.34901 mW
** Area: 14987 (mu_m)^2
** Transit frequency: 8.97301 MHz
** Transit frequency with error factor: 8.96925 MHz
** Slew rate: 8.45667 V/mu_s
** Phase margin: 65.3172°
** CMRR: 102 dB
** negPSRR: 154 dB
** posPSRR: 100 dB
** VoutMax: 4.25 V
** VoutMin: 0.240001 V
** VcmMax: 4.09001 V
** VcmMin: 1.44001 V


** Expected Currents: 
** NormalTransistorNmos: 8.34501 muA
** NormalTransistorNmos: 822.426 muA
** NormalTransistorPmos: -136.176 muA
** DiodeTransistorPmos: -30.4759 muA
** NormalTransistorPmos: -30.4759 muA
** NormalTransistorPmos: -30.4759 muA
** NormalTransistorNmos: 60.9491 muA
** DiodeTransistorNmos: 60.9481 muA
** NormalTransistorNmos: 30.4751 muA
** NormalTransistorNmos: 30.4751 muA
** NormalTransistorNmos: 831.921 muA
** NormalTransistorPmos: -831.92 muA
** NormalTransistorPmos: -831.921 muA
** DiodeTransistorNmos: 136.177 muA
** NormalTransistorNmos: 136.177 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -8.34599 muA
** DiodeTransistorPmos: -822.425 muA


** Expected Voltages: 
** ibias: 0.647001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 4.06201  V
** outInputVoltageBiasXXnXX1: 1.28801  V
** outSourceVoltageBiasXXnXX1: 0.644001  V
** outVoltageBiasXXpXX0: 3.81001  V
** outVoltageBiasXXpXX1: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 4.06201  V
** innerTransistorStack2Load1: 4.62601  V
** sourceTransconductance: 1.94501  V
** innerTransconductance: 4.62601  V
** inner: 0.644001  V


.END