** Name: SimpleTwoStageOpAmp_SimpleOpAmp38_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp38_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=10e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=7e-6 W=71e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=79e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=2e-6 W=23e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=47e-6
mNormalTransistorNmos6 out ibias sourceNmos sourceNmos nmos4 L=4e-6 W=600e-6
mNormalTransistorNmos7 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=46e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=5e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=483e-6
mNormalTransistorNmos10 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=46e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=7e-6 W=79e-6
mNormalTransistorNmos12 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=71e-6
mNormalTransistorPmos13 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=352e-6
mNormalTransistorPmos14 outFirstStage outVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=1e-6 W=27e-6
mNormalTransistorPmos15 outInputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=2e-6 W=248e-6
mNormalTransistorPmos16 FirstStageYinnerSourceLoad1 outVoltageBiasXXpXX1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=1e-6 W=27e-6
mNormalTransistorPmos17 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=2e-6 W=22e-6
mNormalTransistorPmos18 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=2e-6 W=22e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 8e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp38_7

** Expected Performance Values: 
** Gain: 97 dB
** Power consumption: 6.03701 mW
** Area: 7851 (mu_m)^2
** Transit frequency: 7.72801 MHz
** Transit frequency with error factor: 7.72528 MHz
** Slew rate: 7.28385 V/mu_s
** Phase margin: 65.3172°
** CMRR: 102 dB
** negPSRR: 117 dB
** posPSRR: 102 dB
** VoutMax: 4.69001 V
** VoutMin: 0.220001 V
** VcmMax: 5.02001 V
** VcmMin: 1.45001 V


** Expected Currents: 
** NormalTransistorNmos: 4.98601 muA
** NormalTransistorNmos: 477.21 muA
** NormalTransistorPmos: -52.9119 muA
** NormalTransistorPmos: -29.2059 muA
** NormalTransistorPmos: -29.2069 muA
** NormalTransistorPmos: -29.2059 muA
** NormalTransistorPmos: -29.2069 muA
** NormalTransistorNmos: 58.4091 muA
** DiodeTransistorNmos: 58.4081 muA
** NormalTransistorNmos: 29.2051 muA
** NormalTransistorNmos: 29.2051 muA
** NormalTransistorNmos: 603.953 muA
** NormalTransistorPmos: -603.952 muA
** DiodeTransistorNmos: 52.9111 muA
** NormalTransistorNmos: 52.9101 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -4.98699 muA
** DiodeTransistorPmos: -477.209 muA


** Expected Voltages: 
** ibias: 0.622001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 4.125  V
** outInputVoltageBiasXXnXX1: 1.30401  V
** outSourceVoltageBiasXXnXX1: 0.652001  V
** outVoltageBiasXXpXX0: 4.28101  V
** outVoltageBiasXXpXX1: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 4.05101  V
** innerTransistorStack1Load1: 4.49501  V
** innerTransistorStack2Load1: 4.49501  V
** sourceTransconductance: 1.94501  V
** inner: 0.650001  V


.END